US06784167B2
A mixture of ethyl 1-[(1S)-1-(4-methoxyphenyl)ethyl]-5-oxo-3-phenyl-3-pyrroline-2-carboxylate (5 g, 13.7 mmol) and 10% palladium on carbon (0.5 g) was maintained under a H2 atmosphere (55 psi) overnight. The resulting mixture was filtered through a plug of Celite© and silica gel to give ethyl cis-1-[(1S)-1-(4-methoxyphenyl)ethyl]-5-oxo-3-phenylpyrrolidine-2-carboxylate (5 g, 100%). The mixture of diastereomers was triturated (Et2O) to give (4R,5R)-5-(ethoxycarbonyl)-1-(4-methoxyphenyl)ethyl]-4-phenylpyrrolidin-2-one (2.0 g, 40%): 1H NMR (CDCl3) δ 0.62 (t, J=7.1 Hz, 3H). 1.60 (d, J=6.9 Hz, 3H), 2.60 (q, J=8.1 Hz, 1H), 3.09-3.30 (m, 3H), 3.70-3.88 (m, 4H), 4.31 (d, J=8.3 Hz, 1H), 5.52 (q, J=7.3 Hz, 1H), 6.76-6.82 (m, 2H), 7.15-7.31 (m, 7H); HPLC ES-MS m/z (rel abundance) 368 (MH+, 100%).

reactant | ethyl 1-[(1S)-1-(4-methoxyphenyl)ethyl]-5-oxo-3-phenyl-3-pyrroline-2-carboxylate | 13.7 mmol, 5 g | COC1=CC=C(C=C1)[C@H](C)N1C(C(=CC1=O)C1=CC=CC=C1)C(=O)OCC | C22H23NO4
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | ethyl cis-1-[(1S)-1-(4-methoxyphenyl)ethyl]-5-oxo-3-phenylpyrrolidine-2-carboxylate | 5 g, 100% | COC1=CC=C(C=C1)[C@H](C)N1[C@H]([C@H](CC1=O)C1=CC=CC=C1)C(=O)OCC | C22H25NO4
